US09227982B2
Intermediate 4: 2-(Aminomethyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one
A solution of benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate (55.5 g, 176 mmol) in methanol (4 L) was degassed several times under nitrogen then palladium on carbon (1.87 g, 1.76 mmol, 10% on carbon) was added slowly under nitrogen atmosphere. The mixture was stirred under a hydrogen balloon at ambient temperature until TLC showed complete consumption of starting material. Filtration through a pad of Celite and evaporation of solvent provided the title compound (32 g, >99% yield). 1H NMR (400 MHz, CD3OD) δ 4.49 (s, 2H), 3.93 (t, J=5.5 Hz, 2H), 3.77 (s, 2H), 2.66 (t, J=5.5 Hz, 2H). MS m/z 182.2 (M+1), retention time=0.39 min.

reactant | benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate | 176 mmol, 55.5 g | O=C1C2=C(N=C(N1)CNC(OCC1=CC=CC=C1)=O)CCOC2 | C16H17N3O4
solvent | methanol | 4 L | CO | CH4O
catalyst | palladium on carbon | 1.76 mmol, 1.87 g | [Pd] | Pd
product | 2-(Aminomethyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one | 32 g, >99% yield | NCC=1NC(C2=C(N1)CCOC2)=O | C8H11N3O2
